US04220646
A solution of acrylic acid (1.19 g.) in anhydrous methylene chloride (10 cc.) followed by a solution of N,N'-dicyclohexylcarbodiimide (3.4 g.) in anhydrous methylene chloride (30 cc.) are added successively, at a temperature of about 20° C., to a suspension of 6-(5-chloropyrid-2-yl)-7-oxo-5-(piperazin-1-yl)carbonyloxy-6,7-dihydro-5H-pyrrolo[3,4-b]pyrazine (5.6 g.) in anhydrous methylene chloride (100 cc.). The mixture is stirred for 1 hour at a temperature of about 20° C. The insoluble product (dicyclohexylurea) is filtered off and washed with methylene chloride (2×10 cc.). The filtrate is concentrated to dryness under reduced pressure and then the residue obtained is taken up in ethyl acetate (25 cc.) and a small amount of insoluble matter is filtered off. The filtrate is left to stand for 18 hours at a temperature of about 20° C. and the product which has crystallised is filtered off and washed with ethyl acetate (3×2 cc.). After drying, the product obtained (4.9 g.) is dissolved in methylene chloride (100 cc.). The solution is filtered through silica gel (100 g.) contained in a column of diameter 3 cm. Elution is carried out using pure methylene chloride (400 cc.), a mixture of methylene chloride and methanol (99-1 by volume; 300 cc.) and a mixture of methylene chloride and methanol (98-2 by volume; 300 cc.). These eluates are discarded. Elution is then carried out using a mixture of methylene chloride and methanol (98-2 by volume; 200 cc.) and the corresponding eluates are combined and concentrated to dryness under reduced pressure (20 mm.Hg). After recrystallisation from acetonitrile and drying, a product (2.3 g.), which is solvated with acetonitrile, is obtained. This product is dissolved in dimethylformamide (37 cc.) at a temperature of about 50° C. and the solution is poured into ice-water (370 cc.). The insoluble product is filtered off and washed with water (3×10 cc.). After drying, 5-(4-acryloylpiperazin-1-yl)carbonyloxy-6-(5-chloropyrid-2-yl)-7-oxo-6,7-dihydro-5H-pyrrolo[3,4-b]pyrazine hydrate (2.08 g.), which melts at about 202°-204° C., is obtained.

reactant | acrylic acid | 1.19 g | C(C=C)(=O)O | C3H4O2
reactant | N,N'-dicyclohexylcarbodiimide | 3.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 6-(5-chloropyrid-2-yl)-7-oxo-5-(piperazin-1-yl)carbonyloxy-6,7-dihydro-5H-pyrrolo[3,4-b]pyrazine | 5.6 g | ClC=1C=CC(=NC1)N1C(C2=NC=CN=C2C1OC(=O)N1CCNCC1)=O | C16H15ClN6O3
solvent | methylene chloride | 10 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 cc | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 25 cc | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 100 cc | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 37 cc | CN(C=O)C | C3H7NO
product | 5-(4-acryloylpiperazin-1-yl)carbonyloxy-6-(5-chloropyrid-2-yl)-7-oxo-6,7-dihydro-5H-pyrrolo[3,4-b]pyrazine hydrate | 2.08 g | O.C(C=C)(=O)N1CCN(CC1)C(=O)OC1N(C(C2=NC=CN=C21)=O)C2=NC=C(C=C2)Cl | InChI=1S/C19H17ClN6O4.H2O/c1-2-14(27)24-7-9-25(10-8-24)19(29)30-18-16-15(21-5-6-22-16)17(28)26(18)13-4-3-12(20)11-23-13;/h2-6,11,18H,1,7-10H2;1H2
